US05015285
2.2 g (0.01 mol) of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 1.6 g (0.01 mol) of methyl 3-hydroxythiophene-2-carboxylate are dissolved in 50 ml of ethyl methyl ketone, and 13.8 g (0.1 mol) of potassium carbonate are added. The mixture is refluxed for 4 hours, cooled down, diluted with water and extracted with methylene chloride. The extract is dried over sodium sulfate and concentrated under reduced pressure. The residue is stirred up with n-hephtane, filtered off and dried under reduced pressure, leaving 1.8 g of methyl 3-(4,5-dimethoxypyrimidin-2-yloxy)thiophene-2-carboxylate of m.p. 107°-109° C.

reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 0.01 mol, 2.2 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | methyl 3-hydroxythiophene-2-carboxylate | 0.01 mol, 1.6 g | OC1=C(SC=C1)C(=O)OC | C6H6O3S
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | methyl 3-(4,5-dimethoxypyrimidin-2-yloxy)thiophene-2-carboxylate | 1.8 g | COC1=NC(=NC=C1OC)OC1=C(SC=C1)C(=O)OC | C12H12N2O5S
